US04532242
Preparation of 7-Chloro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine
A mixture of 7.0 g (0.037 mole) of 4-chloro-6-hydrazino-2-methylthiopyrimidine and 100 ml of triethyl orthoformate was heated at reflux for 48 hours. Cooling provided a precipitate which was isolated by filtration, and then recrystallized from an ethanol-heptane mixture, with treatment with decolorizing charcoal. The product was red crystals of 7-chloro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine, m.p. 164°-165° C.

reactant | 4-chloro-6-hydrazino-2-methylthiopyrimidine | 0.037 mole, 7.0 g | ClC1=NC(=NC(=C1)NN)SC | C5H7ClN4S
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 7-Chloro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine | ClC1=CC=2N(C(=N1)SC)C=NN2 | C6H5ClN4S
